US03948937
A mixture of 2-(4-methoxyphenyl)pyrazolo[5,1-a]isoindol-8-one (100 mg), methanol(10 ml), and sodium (0.1 g), was stirred overnight at 25°. Evaporation of the methanol left 120 mg (96%) of colorless gum which was the ester 3-(2-carbomethoxyphenyl)-5-(4-methoxyphenyl)pyrazole. The crude ester was dissolved in benzene and stirred overnight with 2 g of Florisil. Filtration and evaporation of the benzene solution, followed by recrystallization from hexane-ethyl acetate (1:1), gave 3-(2-carbomethoxyphenyl)-5-(4-methoxyphenyl)pyrazole, mp 92°-93°.

reactant | 2-(4-methoxyphenyl)pyrazolo[5,1-a]isoindol-8-one | 100 mg | COC1=CC=C(C=C1)C1=NN2C(C=3C=CC=CC3C2=O)=C1 | C17H12N2O2
reactant | sodium | 0.1 g | [Na] | Na
reactant | methanol | 10 ml | CO | CH4O
product | 3-(2-carbomethoxyphenyl)-5-(4-methoxyphenyl)pyrazole | C(=O)(OC)C1=C(C=CC=C1)C1=NNC(=C1)C1=CC=C(C=C1)OC | C18H16N2O3
